US08097691B2
Preparation of 9-cyclopentyl-9-phosphabicyclo[3.3.1]nonane/9-cyclopentyl-9-phosphabicyclo[4.2.1]nonane; isomer mixture (‘cyclopentylphobane’)
A 25 ml stirred vessel was charged at room temperature under nitrogen with 2.0 g (18.5 mmol) of 1,5-cyclooctadiene (Aldrich, 82018 Taufkirchen, DE), 71 mg of azo-bis-isovaleronitrile (VAZO 67, Aldrich, 82018 Taufkirchen, DE) and 3.8 g of a 50% strength solution of monocyclopentylphosphine in toluene (Cytec). This initial charge was subsequently heated to a bath temperature of 80° C. with stirring. After 24 h it was cooled to room temperature, treated with a further 71 mg of AIBN and heated with stirring at a bath temperature of 80° C. for a further 24 h. Subsequently it was worked up by vacuum distillation, giving 2.3 g of cyclopentylphobane isomer mixture (60% of theory; b.p.: 95° C. at 0.05 mbar).

reactant | 1,5-cyclooctadiene | 18.5 mmol, 2.0 g | C1=CCCC=CCC1 | C8H12
reactant | azo-bis-isovaleronitrile | 71 mg | N(=NC(C#N)C(C)C)C(C#N)C(C)C | C10H16N4
reactant | monocyclopentylphosphine | C1(CCCC1)P | C5H11P
reactant | AIBN | 71 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-cyclopentyl-9-phosphabicyclo[3.3.1]nonane 9-cyclopentyl-9-phosphabicyclo[4.2.1]nonane | C1(CCCC1)P1C2CCCC1CCC2.C1(CCCC1)P1C2CCCCC1CC2 | 2C13H23P
